US08648081B2
C) Synthesis of 3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid [(2-fluoro-ethylcarbamoyl)-methyl]-amide
To a solution of compound ({3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carbonyl}-amino)-acetic acid (100 mg, 0.19 mmol) in acetonitrile (5 mL) is added N,N-diisopropylethylamine (49.3 mg, 0.38 mmol), 2-fluoro-ethylamine (14.4 mg, 0.23 mmol) and HATU (108.8 mg, 0.29 mmol), after finished the mixture is stirred at room temperature for 1 hour. After being detected by TLC and LCMS, the reaction mixture is concentrated and the residue is purified by column chromatography to afford desired product (100 mg, 92%). MS (m/z): 570.1 (M+1).

reactant | ({3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carbonyl}-amino)-acetic acid | 0.19 mmol, 100 mg | ClC=1C=C(C=C(C1F)Cl)C1(CC(=NO1)C1=C2C(=C(S1)C(=O)NCC(=O)O)CCC2)C(F)(F)F | C20H14Cl2F4N2O4S
reactant | N,N-diisopropylethylamine | 0.38 mmol, 49.3 mg | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 2-fluoro-ethylamine | 0.23 mmol, 14.4 mg | FCCN | C2H6FN
reactant | HATU | 0.29 mmol, 108.8 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | 3-[5-(3,5-Dichloro-4-fluoro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-5,6-dihydro-4H-cyclopenta[c]thiophene-1-carboxylic acid [(2-fluoro-ethylcarbamoyl)-methyl]-amide | 100 mg, 92% | FCCNC(=O)CNC(=O)C=1SC(=C2C1CCC2)C2=NOC(C2)(C(F)(F)F)C2=CC(=C(C(=C2)Cl)F)Cl | C22H18Cl2F5N3O3S
